US04022900
5-Nitro-2-n-propylisoquinolinium bromide (8.2 g) was dissolved in methanol (150 ml) and the solution hydrogenated over platinum oxide (0.6 g) at 45 psi. When the hydrogenation was complete, the catalyst was removed by filtration and the solvent removed in vacuo to leave a light orange solid residue of 5-amino-2-n-propyl-1,2,3,4-tetrahydroisoquinoline hydrobromide (7.5 g). This residue was recrystallized from ethanol and the product obtained as pale orange crystals, m.p. 238°-239.5° C.

reactant | 5-Nitro-2-n-propylisoquinolinium bromide | 8.2 g | [Br-].[N+](=O)([O-])C1=C2C=C[N+](=CC2=CC=C1)CCC
solvent | methanol | 150 ml | CO | CH4O
catalyst | platinum oxide | 0.6 g | [Pt]=O
product | 5-amino-2-n-propyl-1,2,3,4-tetrahydroisoquinoline hydrobromide | 7.5 g | Br.NC1=C2CCN(CC2=CC=C1)CCC | InChI=1S/C12H18N2.BrH/c1-2-7-14-8-6-11-10(9-14)4-3-5-12(11)13;/h3-5H,2,6-9,13H2,1H3;1H
